US07842685B2
Glycine ethyl ester hydrochloride (224 mg, 1.602 mmol) was dissolved in MeOH (4.0 mL) and chloroform (4.0 mL) before diisopropylethylamine (279 μL, 1.602 mmol) was added and stirred at ambient temperature for 15 min. 3-Fluoro-4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridin-2-yl)benzaldehyde (300 mg, 0.801 mmol) and sodium triacetoxyhydroborate (340 mg, 1.602 mmol) were then added and stirred at ambient temperature for 24 h. The reaction mixture was diluted with 100 mL of EtOAc, added to a separatory funnel, partitioned with sodium bicarbonate (saturated, aqueous), washed 1 time with 50 mL of ammonium chloride (saturated, aqueous), separated, dried over sodium sulfate, and concentrated via rotovap to give ethyl 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo-[5,4-b]pyridin-2-yl)benzylamino)acetate after flash chromatography. MS (ESI) m/z: Calculated: 461.2; Observed: 461.9 (M++H).

reactant | Glycine ethyl ester hydrochloride | 1.602 mmol, 224 mg | Cl.C(C)OC(CN)=O
reactant | diisopropylethylamine | 1.602 mmol, 279 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-Fluoro-4-(5-(1-phenylcyclopropyl)-thiazolo[5,4-b]pyridin-2-yl)benzaldehyde | 0.801 mmol, 300 mg | FC=1C=C(C=O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2OS
reactant | sodium | [Na] | Na
solvent | MeOH | 4.0 mL | CO | CH4O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | chloroform | 4.0 mL | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo-[5,4-b]pyridin-2-yl)benzylamino)acetate | FC=1C=C(CNCC(=O)OCC)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C26H24FN3O2S
